US05712300
Preparation of 3-(2-Methylpropyl)-1-(2-phenylethyl)-2-pyrrolidinone
A solution of 1-(2-phenylethyl)-2-pyrrolidinone (500 mg, 2.64 mmol) and THF (6 mL) is cooled to -78° C. Some precipitation occurred and 2 mL of THF is added. A solution of lithium diisopropylamide (LDA, 1.4 mL, 2.8 mmol, 2.0M in heptane/THF/ethylbenzene) is added and the mixture stirred at -78° C. for 40 minutes, giving a dark brown solution. To this solution is added 1-iodo-2-methylpropane (0.37 mL, 3.2 mmol). The solution is allowed to warm from -78° C. to 5° C. over 2.5 hours. After quenching with saturated aqueous ammonium chloride, aqueous workup (EtOAc, MgSO4) and purification by column chromatography (20% EtOAc/hexane) to give 642 mg (99%) of the title compound as a white solid (mp 69°-71° C.).

reactant | 1-(2-phenylethyl)-2-pyrrolidinone | 2.64 mmol, 500 mg | C1(=CC=CC=C1)CCN1C(CCC1)=O | C12H15NO
reactant | lithium diisopropylamide | 2.8 mmol, 2.0M, 1.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-iodo-2-methylpropane | 3.2 mmol, 0.37 mL | ICC(C)C | C4H9I
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(2-Methylpropyl)-1-(2-phenylethyl)-2-pyrrolidinone | 642 mg, 99% | CC(CC1C(N(CC1)CCC1=CC=CC=C1)=O)C | C16H23NO
